* /Users/toma/Documents/jitx/glasgow-simulation/model_lib/models/TLV733P/ltspice/tlv733p.asc
M1 VIN N001 VSW VSW mosen
M2 VSW VCL VCL VCL moscl
M3 VCL 0 VOUT VOUT mosreg
R1 VOUT 0 5k
C1 VOUT 0 0.33µF
V1 VIN 0 PWL(0 0 100u 0 200u 5 7m 5 8m 0.8 9m 0.8 10m 5 19m 5 22m 2 25m 1.1 26m 5)
V2 VENS 0 PWL(0 0 1m 0 2m 5 4m 5 4.0001m 0 5m 0 5.001m 5 7m 5 8m 0.8 9m 0.8 10m 5 19m 5 22m 2 25m 1.1 26m 5 27m 5 27.1m 0 29m 0 29.1m 5)
C2 N003 0 100pF
M4 VNEN VEN 0 0 moslogn
C3 VNEN 0 100fF
C4 VIN 0 0.1µF
C5 N001 0 1.5pF
R2 VIN VNEN 1Meg
M7 VUVLO VIN 0 0 mosuvlo
C6 VUVLO 0 100fF
C7 N002 0 100pF
I1 VOUT 0 PWL(0 0 11m 0 18m 0.7 19m 276m 26m 276m 26.1m 0)
D1 VOUT VIN substrate
R5 VIN VUVLO 1Meg
M11 VNUVLO VUVLO VIN VIN moslogp
M12 VNUVLO VUVLO 0 0 moslogn
M5 VFEN VNEN VIN VIN moslogp
M6 VFEN VNEN 0 0 moslogn
M9 N005 VNUVLO 0 0 moslogn
M10 N004 VFEN N005 N005 moslogn
M13 N004 VNUVLO VIN VIN moslogp
M14 N004 VFEN VIN VIN moslogp
M15 VFEN N001 N001 N001 softstart
C8 VNUVLO 0 2pF
C9 VFEN 0 2pF
C10 N004 0 100pF
D2 VEN VIN inpprotect
D3 0 VEN inpprotect
D4 0 VOUT outprotect
R3 VIN VEN 10Meg
R6 VENS VEN 50
M16 N003 N004 0 0 mosacti
R7 VCL N003 240
M17 N002 N004 0 0 mosacti
R8 VSW N002 240
.model D D
.lib /Users/toma/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/toma/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 1u 30m
.model mosreg VDMOS(RD=200m RS=10m VTO=-1.2 KP=1000)
.model moscl VDMOS(RD=200m RS=10m VTO=-75m KP=180)
.model mosen VDMOS(RD=200m RS=10m VTO=25m KP=1000)
.model moslogn VDMOS(RD=40 RS=40 VTO=0.8 KP=100u)
.model moslogp VDMOS(pchan RD=40 RS=40 VTO=-0.3 KP=20u)
.model mosuvlo VDMOS(RD=10 RS=10 VTO=1.3 KP=50u)
.model substrate D(RS=.01 N=1.5)
.model inpprotect D(RS=1 N=1 IS=1e-6)
.model outprotect D(RS=0.1 N=1 BV=3.6 IBV=10u)
.model softstart VDMOS(RD=10 RS=10 VTO=-75m KP=2u)
.model mosacto VDMOS(RD=119 RS=1 VTO=25m KP=100)
.model mosacti VDMOS(RD=4 RS =1 VTO=25m KP=1)
.backanno
.end
